US08957068B2
To (R)—N—((S)-1-(4-(difluoromethyl)-2-fluorophenyl)ethyl)-2-methylpropane-2-sulfinamide (160 mg, 0.545 mmol) was added 4M HCl in dioxane (409 μL) to give a yellow solution. The resulting mixture was stirred at room temperature for ˜1 hour. To the mixture was added slowly diethylether (˜20 mL). The solids were filtered off, suspended in diethylether, filtered off and rinsed with diethylether, dried under reduced pressure providing (S)-1-(4-(difluoromethyl)-2-fluorophenyl)ethanamine (103 mg) as an off-white solid, which was used without further purification. LCMS m/z 190.1 (M+H)+, Rt 0.42 min.

reactant | (R)—N—((S)-1-(4-(difluoromethyl)-2-fluorophenyl)ethyl)-2-methylpropane-2-sulfinamide | 0.545 mmol, 160 mg | FC(C1=CC(=C(C=C1)[C@H](C)N[S@](=O)C(C)(C)C)F)F | C13H18F3NOS
reactant | HCl | 4M | Cl | ClH
reactant | diethylether | ˜20 mL | C(C)OCC | C4H10O
solvent | dioxane | 409 μL | O1CCOCC1 | C4H8O2
product | (S)-1-(4-(difluoromethyl)-2-fluorophenyl)ethanamine | 103 mg | FC(C1=CC(=C(C=C1)[C@H](C)N)F)F | C9H10F3N
